US04436748
A mixture of "super" polyphosphoric acid is freshly prepared by mixing 7.0 g of phosphorous pentoxide and 40 g of polyphosphoric acid. The mixture is heated to 135°-140° and, with efficient stirring, is added 5.5 g of finely pulverized 2-[2,3-dichloro-4-methoxyphenylthio]cyclohexanone. Stirring is continued at 140° for 2 hours and the mixture is cooled, diluted with water and filtered. The crude product is filtered, air-dried and purified by passing it through a silica column. Elution with ether-hexane (50:50) yields 4.3 g of 3,4-dichloro-6,7,8,9-tetrahydro-2-methoxydibenzothiophene as off-white crystals, mp 123°-125°.

reactant | phosphorous pentoxide | 7.0 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2-[2,3-dichloro-4-methoxyphenylthio]cyclohexanone | ClC1=C(C=CC(=C1Cl)OC)SC1C(CCCC1)=O | C13H14Cl2O2S
solvent | water | O | H2O
product | 3,4-dichloro-6,7,8,9-tetrahydro-2-methoxydibenzothiophene | 4.3 g | ClC=1C(=CC2=C(SC3=C2CCCC3)C1Cl)OC | C13H12Cl2OS
